US09353107B2
Step-ii: 5-(3-fluoro-4-(piperazin-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (80 mg, 0.140 mmol) was deprotected in TFA/DCM (5/5 ml) to afford 12 mg (93% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.54 (s, 2H), 8.262-8.260 (d, 1H), 7.975-7.973 (d, 1H), 7.74 (s, 1H), 7.59-7.52 (m, 2H), 7.38-7.00 (m, 5H), 5.44 (s, 2H), 3.42-3.40 (m, 8H). MS: m/z=471.2 (M+1), HPLC: 97.06% in method B.

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.140 mmol, 80 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C32H32F2N6O2
solvent | TFA DCM | 5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-(3-fluoro-4-(piperazin-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 12 mg, 93% yield | FC=1C=C(C=CC1N1CCNCC1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F | C27H24F2N6
